US06489344B1
Portions of solid 1H -pyrazole-1-carboxamidine hydrochloride (91.10 g, 624 mmol)) are added to a stirred solution of N-(2-aminoethyl)(tert-butoxy)carboxamide (0.62 M) in CH3CN (1 L) at 80° C. After 24 hours, the reaction was stripped of solvent under reduced pressure. The residue was triturated with ether (3×100 ml), and dried in vacuo. The N-[2-(amidinoamino)ethyl](tert-butoxy)carboxamide, hydrochloride was obtained in over 100% yield containing a small amount of pyrazole. The N-[2-(amidinoamino)ethyl](tert-butoxy)carboxamide, hydrochloride was used without further purification.

reactant | pyrazole-1-carboxamidine hydrochloride | 624 mmol, 91.10 g | Cl.N1(N=CC=C1)C(=N)N
reactant | N-(2-aminoethyl)(tert-butoxy)carboxamide | 0.62 M | NCCNC(=O)OC(C)(C)C | C7H16N2O2
solvent | CH3CN | 1 L | CC#N | C2H3N
product | N-[2-(amidinoamino)ethyl](tert-butoxy)carboxamide, hydrochloride | 100% yield | Cl.C(N)(=N)NCCNC(=O)OC(C)(C)C | InChI=1S/C8H18N4O2.ClH/c1-8(2,3)14-7(13)12-5-4-11-6(9)10;/h4-5H2,1-3H3,(H,12,13)(H4,9,10,11);1H
